US06605629B1
A mixture of 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole (500 mg), 2-propylimidazole (1.10 g), potassium carbonate (1.38 g) and N,N-dimethylformamide (10 ml) was stirred at 120-130° C. for 4 hours. The reaction mixture was poured into water (100 ml), the resulting solid precipitate was filtered, air-dried and recrystallized from acetone-hexane to give 4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]-2-(2-propyl-1-imidazolyl)oxazole as pale yellow prisms (233 mg, 39%). Melting point 89-90° C.

reactant | 2-chloro-4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]oxazole | 500 mg | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCCOC1=C(C=CC=C1)OC | C19H17Cl2NO3
reactant | 2-propylimidazole | 1.10 g | C(CC)C=1NC=CN1 | C6H10N2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 4-(4-chlorophenyl)-5-[3-(2-methoxyphenoxy)propyl]-2-(2-propyl-1-imidazolyl)oxazole | 233 mg, 39% | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)OC)N1C(=NC=C1)CCC | C25H26ClN3O3
